US08633173B2
(2,3,4,5-Tetrahydro-1H-3-benzazepin-7yl)-[8-(3-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine was prepared from 7-[8-(3-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester (0.203 g, 388 mmol) and trifluoroacetic acid (1 mL) in a manner analogous to Example 312 to give product (0.072 g, 44%). MP=88-91° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.55 (s, 1H), 8.83 (d, 1H), 8.65 (s, 1H), 8.40 (d, 1H), 7.95 (d, 1H), 7.82 (m, 2H), 7.50 (m, 2H), 7.15 (t, 1H), 7.05 (d, 1H), 2.75 (br m, 9H). MS=424 (MH)+.

reactant | 7-[8-(3-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | 388 mmol, 0.203 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=CC(=CC=C1)C(F)(F)F)=N2 | C28H28F3N5O2
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (2,3,4,5-Tetrahydro-1H-3-benzazepin-7yl)-[8-(3-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine | C1CNCCC2=C1C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=CC(=CC=C1)C(F)(F)F)=N2 | C23H20F3N5
